* PEX produced on Mon Aug  3 11:33:15 AM CEST 2026 using /foss/tools/sak/iic-pex.sh with m=3 and s=1
* NGSPICE file created from inverter.ext - technology: sky130A

.subckt inverter VP A Y VN
X0 Y A VP VP sky130_fd_pr__pfet_01v8 ad=0.7 pd=3.4 as=0.7 ps=3.4 w=1 l=0.15
X1 Y A VN VN sky130_fd_pr__nfet_01v8 ad=0.7 pd=3.4 as=0.7 ps=3.4 w=1 l=0.15
C0 Y A 0.04359f
C1 Y VP 0.10057f
C2 VP A 0.05752f
C3 Y VN 0.29384f
C4 A VN 0.44012f
C5 VP VN 0.74936f
.ends

