** sch_path: /foss/designs/inverter_dc_tb.sch
**.subckt inverter_dc_tb Vout
*.opin Vout
x1 Vdd Vout Vin net1 inverter
Vdd Vdd GND 1.8
Vin net2 GND 0
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.option savecurrents
.control
save all
dc Vin 0 1.8 0.1
plot v(Vin) v(Vout)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/inverter.sym
** sch_path: /foss/designs/inverter.sch
.subckt inverter VP Y A VN
*.iopin VP
*.iopin VN
*.ipin A
*.opin Y
XM1 Y A VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.end
