** sch_path: /foss/designs/inverter_dc_tb.sch
**.subckt inverter_dc_tb Vout
*.opin Vout
x1 Vdd Vin Vout GND inverter
Vdd Vdd GND 1.8
Vin Vin GND 0
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.include /foss/designs/inverter.pex.spice
.option savecurrents
.control
save all
dc Vin 0 1.8 0.1
plot v(Vin) v(Vout)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
